US07202253B2
A solution of (2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine (0.065 g; 0.18 mmol) in anhydrous methanol (2 mL) was treated with 10% palladium on carbon (200 mg) and placed under an atmosphere of hydrogen (45 psi). The reaction mixture was shaken at room temperature for 3 h. The reaction mixture was filtered through celite and evaporated. The crude residue was purified by column chromatography on silicia gel using 9:1 ethyl acetate:hexane as the eluent to give 0.052 g (1-phenyl-cyclohexylmethyl)-quinazolin-4-yl-amine as a white foam. LCMS m/z=318.2 (M+H)+

reactant | (2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine | 0.18 mmol, 0.065 g | ClC1=NC2=CC=CC=C2C(=N1)NCC1(CCCCC1)C1=CC=CC=C1 | C21H22ClN3
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | (1-phenyl-cyclohexylmethyl)-quinazolin-4-yl-amine | 0.052 g | C1(=CC=CC=C1)C1(CCCCC1)CNC1=NC=NC2=CC=CC=C12 | C21H23N3
